US08865682B2
To a 0° C. stirred solution of 6-fluorooxindole (370 mg, 2.45 mmol) in anhydrous THF (10 mL) was added 1M LiHMDS/THF solution (4.9 mL, 4.9 mmol). The mixture was stirred at 0° C. for 10 minutes. 4-Bromo-5H-furan-2-one (200 mg, 1.23) was added as a solution in 2 mL of THF. The resulting mixture was stirred at 0° C. for 30 minutes, then at room temperature for 1 hour and quenched with 10 mL of 2M HCl. Methanol (5 mL) was added and the mixture was stirred at 50° C. for 0.5 hour. The mixture was poured into 150 mL of water and then stirred for 30 minutes. The precipitates were filtered, washed with water, and dried in vacuum to give 3-(4-bromo-5H-furan-2-ylidene)-6-fluoro-1,3-dihydro-indol-2-one as a yellow solid. Yield: 228 mg, 63%.

reactant | 6-fluorooxindole | 2.45 mmol, 370 mg | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | LiHMDS THF | 4.9 mmol, 1M, 4.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | 4-Bromo-5H-furan-2-one | 200 mg | BrC1=CC(OC1)=O | C4H3BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-5H-furan-2-ylidene)-6-fluoro-1,3-dihydro-indol-2-one | BrC1=CC(OC1)=C1C(NC2=CC(=CC=C12)F)=O | C12H7BrFNO2
